US09376442B2
tert-Butyl 4-{[(4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate
Starting from 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c5) and commercially available tert-butyl 4-amino-piperidine-1-carboxylate the title compound is obtained as pale yellow foam.

reactant | 4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C25H33N3O5Si
reactant | tert-butyl 4-amino-piperidine-1-carboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-Butyl 4-{[(4-[2-(cyclopropylmethoxy)-4-methoxyphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate | C1(CC1)COC1=C(C=CC(=C1)OC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C35H51N5O6Si
